US05736568
A solution of borane/THF (27 ml, 1M solution) was added to a solution of N-(4-chloro-α,α-dimethylbenzyl)-2-(2-dimethylcarbamoylphenoxy)acetamide (2.0 g) in THF (20 ml) at 0° C. with stirring under a nitrogen atmosphere. The mixture was warmed to ambient temperature and then boiled under reflux for 1 hour. The mixture was evaporated to dryness and 2M hydrochloric acid (50 ml) was added carefully. The mixture was heated on a steam bath for 2 hours, then cooled, washed with ethyl acetate, basified with 2M sodium hydroxide solution and extracted into dichloromethane to give an oil which was distilled under high vacuum to give an oil, b.p. 150° C. at 0.13 mbar. The oil was dissolved in ether and acidified with ethereal hydrogen chloride. The precipitate was collected by filtration to give 2-[2-(4-chloro-α,α-dimethylbenzylamino) ethoxy]-N,N-dimethylbenzylamine dihydrochloride hemihydrate m.p. 140° C. (with effervescence).

reactant | borane THF | 1M, 27 ml | B.C1CCOC1
reactant | N-(4-chloro-α,α-dimethylbenzyl)-2-(2-dimethylcarbamoylphenoxy)acetamide | 2.0 g | ClC1=CC=C(C(C)(C)NC(COC2=C(C=CC=C2)C(N(C)C)=O)=O)C=C1 | C20H23ClN2O3
reactant | hydrogen chloride | Cl | ClH
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 2-[2-(4-chloro-α,α-dimethylbenzylamino) ethoxy]-N,N-dimethylbenzylamine dihydrochloride hemihydrate | O.Cl.Cl.ClC1=CC=C(C(C)(C)NCCOC2=C(CN(C)C)C=CC=C2)C=C1.ClC1=CC=C(C(C)(C)NCCOC2=C(CN(C)C)C=CC=C2)C=C1.Cl.Cl | InChI=1S/2C20H27ClN2O.4ClH.H2O/c2*1-20(2,17-9-11-18(21)12-10-17)22-13-14-24-19-8-6-5-7-16(19)15-23(3)4;;;;;/h2*5-12,22H,13-15H2,1-4H3;4*1H;1H2
